US07538123B2
0.81 g of 3-(6-methoxyquinolin-5-yl)propane-1,2-diol was dissolved in 24 ml of tetrahydrofuran and 8 ml of methanol. Then, 12 ml of water containing 1.49 g of sodium metaperiodate was added to the reaction solution while cooling on ice, and the obtained mixture was then stirred at room temperature for 45 minutes. Thereafter, a saturated sodium chloride aqueous solution was added to the reaction solution, followed by extraction with methylene chloride. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 0.72 g of (6-methoxyquinolin-5-yl)acetaldehyde. This compound was directly used in the following reaction without further purification.

reactant | 3-(6-methoxyquinolin-5-yl)propane-1,2-diol | 0.81 g | COC=1C(=C2C=CC=NC2=CC1)CC(CO)O | C13H15NO3
reactant | water | 12 ml, 1.49 g | O | H2O
reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | methanol | 8 ml | CO | CH4O
product | (6-methoxyquinolin-5-yl)acetaldehyde | 0.72 g | COC=1C(=C2C=CC=NC2=CC1)CC=O | C12H11NO2
